US07691879B2
4-(3-fluorophenyl)-6-methoxy-1-[(1-methyl-1H-imidazol-4-yl)methoxy]isoquinoline-3-carbonitrile
Following the procedure for 1-(allyloxy)-6-methoxy-4-phenylisoquinoline-3-carbonitrile, using 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile in place of 1-chloro-6-methoxy-4-phenylisoquinoline-3-carbonitrile and (1-methyl-1H-imidazol-4-yl)methanol in place of allyl alcohol, the title compound was synthesized.

reactant | 1-(allyloxy)-6-methoxy-4-phenylisoquinoline-3-carbonitrile | C(C=C)OC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C20H16N2O2
reactant | 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC(=CC=C1)F)C#N | C17H10ClFN2O
reactant | (1-methyl-1H-imidazol-4-yl)methanol | CN1C=NC(=C1)CO | C5H8N2O
product | 4-(3-fluorophenyl)-6-methoxy-1-[(1-methyl-1H-imidazol-4-yl)methoxy]isoquinoline-3-carbonitrile | FC=1C=C(C=CC1)C1=C(N=C(C2=CC=C(C=C12)OC)OCC=1N=CN(C1)C)C#N | C22H17FN4O2
